US05015777
Preparation Of Benzoyl 3,5-Dimethylbenzoylmethane
3,5-dimethylacetophenone (37.1 grams; 0.75 mol), methylbenzoate (156 grams; 1.0 mol) and xylene (308.6 grams) were placed into a four-necked round bottom one liter flask equipped as in Example 1. Sodium methoxide (16.4 grams; 0.30 mol) was added to the stirred reaction mixture under a blanket of nitrogen and the mixture was heated to 135° C. As the temperature of the mixture reached 100° C., solution began coming over. The temperature was held at about 135° C. for 6 hours after which time it was cooled to room temperature. Sulfuric acid (375 ml of 10% solution) was added slowly over a 30 minute period with stirring. The xylene layer was separated and washed with water, then with sodium carbonate solution (100 ml of 10% solution) and again with water (100 ml). Xylene was stripped off at 175° C. resulting in the desired product, benzoyl 3,5-dimethylbenzoylmethane (51 grams; 63 weight percent yield) having a melting point of 48°-53° C..

reactant | 3,5-dimethylacetophenone | 0.75 mol, 37.1 grams | CC1=CC(=CC(=C1)C(=O)C)C | C10H12O
reactant | methylbenzoate | 1.0 mol, 156 grams | COC(C1=CC=CC=C1)=O | C8H8O2
reactant | Sodium methoxide | 0.30 mol, 16.4 grams | C[O-].[Na+]
reactant | Sulfuric acid | 375 ml | S(O)(O)(=O)=O | H2O4S
solvent | xylene | 308.6 grams | C=1(C(=CC=CC1)C)C | C8H10
product | benzoyl 3,5-dimethylbenzoylmethane | 51 grams | C(C1=CC=CC=C1)(=O)CC(C1=CC(=CC(=C1)C)C)=O | C17H16O2
